US07977358B2
A] 3-Cyclopropyl-3-oxo-2-(pyridine-4-carbonyl)-propionic acid ethyl ester
7.5 g (48 mmol) of 3-cyclopropyl-3-oxo-propionic acid ethyl ester were dissolved in 250 ml of CH2Cl2, the solution was cooled at 0° C. and successively were added 4.71 g (49.5 mmol) of anhydrous magnesium chloride, 8.1 ml (100 mmol) of pyridine and 12.8 g (72 mmol) of isonicotinoyl chloride.hydrochloride. The yellow suspension was stirred 1 h under ice cooling and 18 h at room temperature. The reaction mixture was poured into crashed ice and extracted twice with CH2Cl2. The organic phases were washed with brine, dried over magnesium sulfate, and evaporated. The residual product was purified by column chromatography (n-heptane:EtOAc 1:1) to afford the title compound as light yellow oil (10 g, 79%). MS: 262.1 (MH+).

reactant | 3-cyclopropyl-3-oxo-propionic acid ethyl ester | 48 mmol, 7.5 g | C(C)OC(CC(=O)C1CC1)=O | C8H12O3
reactant | magnesium chloride | 49.5 mmol, 4.71 g | [Cl-].[Mg+2].[Cl-]
reactant | pyridine | 100 mmol, 8.1 ml | N1=CC=CC=C1 | C5H5N
reactant | isonicotinoyl chloride.hydrochloride | 72 mmol, 12.8 g | Cl.C(C1=CC=NC=C1)(=O)Cl
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
product | 3-Cyclopropyl-3-oxo-2-(pyridine-4-carbonyl)-propionic acid ethyl ester | 10 g, 79% | C(C)OC(C(C(=O)C1CC1)C(=O)C1=CC=NC=C1)=O | C14H15NO4
